US06969711B2
Preparation of 2-[4-[3-(benzoxazol-2-ylthio)propyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-methoxyphenyl)acetamide:
2-[4-[3-(Benzoxazol-2-ylthio)propyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide (150 mg, 0.29 mmol) was dissolved in methanol (2 ml) and acetonitrile (3 ml), then N,N-diisopropylethylamine (227 mg, 1.76 mmol) and a solution of trimethylsilyl diazomethane in hexane (2.0M, 0.88 ml, 1.76 mmol) were added thereto and the mixture was stirred for 14 hours. The reaction solution was concentrated, made alkaline with an aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over anhydrous sodium sulfate and the solvent was evaporated therefrom. The residue was purified by a silica gel column chromatography (developing solvent, hexane:acetone=7:3) and the resulting crude crystals were recrystallized from ethyl acetate and hexane to provide 31 mg (yield 20%) of the desired compound as colorless powdery crystals.

reactant | 2-[4-[3-(Benzoxazol-2-ylthio)propyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-hydroxyphenyl)acetamide | 0.29 mmol, 150 mg | O1C(=NC2=C1C=CC=C2)SCCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)O)C(C)C | C28H38N4O3S
reactant | N,N-diisopropylethylamine | 1.76 mmol, 227 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trimethylsilyl diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | hexane | 1.76 mmol, 2.0M, 0.88 ml | CCCCCC | C6H14
solvent | methanol | 2 ml | CO | CH4O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2-[4-[3-(benzoxazol-2-ylthio)propyl]piperazin-1-yl]-N-(2,6-diisopropyl-3-methoxyphenyl)acetamide | 31 mg, yield 20% | O1C(=NC2=C1C=CC=C2)SCCCN2CCN(CC2)CC(=O)NC2=C(C(=CC=C2C(C)C)OC)C(C)C | C29H40N4O3S
